US05364871
A mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (0.64 g), 1N-hydrochloric acid (5.15 ml) and potassium cyanate (0.21 g) in water (6.4 ml) was stirred for 19 hours at ambient temperature. The solution was made basic with aqueous potassium carbonate and the resulting precipitate was collected by filtration. The free base was converted to the hydrochloride in a usual manner followed by recrystallization from aqueous methanol to give 2-(diaminomethyleneamino)-4-(6-ureidomethylpyridin-2-yl)thiazole dihydrochloride (0.45 g).

reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 0.64 g | NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C10H12N6S
reactant | hydrochloric acid | 5.15 ml | Cl | ClH
reactant | potassium cyanate | 0.21 g | [O-]C#N.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 6.4 ml | O | H2O
product | 2-(diaminomethyleneamino)-4-(6-ureidomethylpyridin-2-yl)thiazole dihydrochloride | 0.45 g | Cl.Cl.NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(=O)N | InChI=1S/C11H13N7OS.2ClH/c12-9(13)18-11-17-8(5-20-11)7-3-1-2-6(16-7)4-15-10(14)19;;/h1-3,5H,4H2,(H3,14,15,19)(H4,12,13,17,18);2*1H
